US06900215B2
A mixture of 3-bromo-2,4-difluorophenylamine (5.2 g, 25 mmol), 2-tri-n-butylstannylpyridine (11.0 g, 30 mmol), lithium chloride (10.6 g, 250 mmol) and copper(I) iodide (476 mg, 2.5 mmol) in tetrahydrofuran (100 ml) was degassed with nitrogen for 20 min before adding tetrakis(triphenylphosphine)palladium(0). The reaction was then heated at reflux for 5 days. The mixture was cooled to ambient temperature then partitioned between ethyl acetate and 10% ammonium hydroxide. The organics were washed with water, brine, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by chromatography on silica eluting with isohexane (containing 0.5% triethylamine) on a gradient of ethyl acetate (20-50%) gave 2,4-difluoro-3-(pyridin-2-yl)phenylamine as a brown oil (550 mg, 11%): δH (400 MHz, CDCl3) 3.65 (2H, br), 6.74-6.84 (2H, m), 7.31 (1H, ddd, J 7, 5 and 1), 7.46-7.51 (1H, m), 7.78 (1H, ddd, J 8, 8 and 2), 8.74-8.77 (1H, m); m/z (ES+) 207 (M++H).

reactant | 3-bromo-2,4-difluorophenylamine | 25 mmol, 5.2 g | BrC=1C(=C(C=CC1F)N)F | C6H4BrF2N
reactant | 2-tri-n-butylstannylpyridine | 30 mmol, 11.0 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | lithium chloride | 250 mmol, 10.6 g | [Cl-].[Li+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 2.5 mmol, 476 mg | [Cu]I
product | 2,4-difluoro-3-(pyridin-2-yl)phenylamine | 550 mg, 11% | FC1=C(C=CC(=C1C1=NC=CC=C1)F)N | C11H8F2N2
